US06048868
EXAMPLE 35 CARBO21: ethyl 9-methoxy-4-oxo-1,2,3,4,6,7,12,12b-octahydropyrido[2,1-a]-β-carboline-3-carboxylate
4,4-Dicarbethoxybutyronitrile (1.2 g)and palladium-on-charcoal (0.6 g) are successively added to 5-methoxytryptamine (693 mg) dissolved in acetic acid. The mixture is stirred under a hydrogen atmosphere for 48 h. The medium is then filtered and the palladium is washed with a chloroform/methanol mixture. After evaporation of the solvent, the crude product obtained, dissolved in toluene, is refluxed overnight. The ethyl 9-methoxy-4-oxo-1,2,3,4,6,7,12,12b-octahydropyrido[2,1 -a]-(3-carboline-3-carboxylate precipitates and is recovered by simple filtration (35% yield).

reactant | 4,4-Dicarbethoxybutyronitrile | 1.2 g | C(=O)(OCC)C(CCC#N)C(=O)OCC | C10H15NO4
reactant | 5-methoxytryptamine | 693 mg | COC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 0.6 g | [Pd] | Pd
product | ethyl 9-methoxy-4-oxo-1,2,3,4,6,7,12,12b-octahydropyrido[2,1-a]-β-carboline-3-carboxylate | 35% yield | COC=1C=C2C=3CCN4C(C3NC2=CC1)CCC(C4=O)C(=O)OCC | C19H22N2O4
